US08486967B2
d) 8-Bromo-6-cyclopropyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
To a solution of N-(3-bromo-5-cyclopropyl-pyridin-2-yl)-N′-ethoxycarbonyl-thiourea (1.5 g, 4.36 mmol) in dry methanol (20 mL) were added hydroxylamine hydrochloride (1.41 g, 21.8 mmol) and diisopropyl ethylamine (12.14 mL, 13.08 mmol) under an argon atmosphere and stirred at room temperature for 6 hours. Methanol was evaporated and the residue purified by silica gel chromatography using ethyl acetate/hexane as eluent. The title compound was obtained as off white solid (910 mg, 82%).

reactant | N-(3-bromo-5-cyclopropyl-pyridin-2-yl)-N′-ethoxycarbonyl-thiourea | 4.36 mmol, 1.5 g | BrC=1C(=NC=C(C1)C1CC1)NC(=S)NC(=O)OCC | C12H14BrN3O2S
reactant | hydroxylamine hydrochloride | 21.8 mmol, 1.41 g | Cl.NO
reactant | diisopropyl ethylamine | 13.08 mmol, 12.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 20 mL | CO | CH4O
product | 8-Bromo-6-cyclopropyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | BrC=1C=2N(C=C(C1)C1CC1)N=C(N2)N | C9H9BrN4
